US07960552B2
Potassium acetate (2.46 g, 25.02 mmol) was added to 4-bromo-3-methyl-phenol (1.04 g, 5.56 mmol) in N,N-dimethylformamide (14 mL) at room temperature under argon. Then, 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (2.12 g, 8.34 mmol) was added to the reaction mixture, followed by the addition of dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)dichloromethane adduct (227.0 mg, 278.0 μmol), and the reaction vessel was evacuated and purged with argon. The mixture was heated at 80° C. in an oil bath for nineteen hours, then allowed to cool to room temperature, and concentrated. Water was added, followed by diethyl ether, and the mixture was filtered through Celite®. The filtrate was extracted with diethyl ether and the organic layer was dried over anhydrous magnesium sulfate, then filtered and concentrated. The residue was purified by silica gel chromatography eluting with 1:6 ethyl acetate:hexanes to give 912.4 mg (70%) of 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol as a solid. 1H NMR (400 MHz, d6-DMSO): δ 9.60 (s, 1H), 7.45 (d, J=8 Hz, 1H), 6.56-6.51 (m, 2H), 2.36 (s, 3H), 1.25 (s, 12H). ESI-LCMS m/z 233 (M−H)−.

reactant | Potassium acetate | 25.02 mmol, 2.46 g | C(C)(=O)[O-].[K+]
reactant | 4-bromo-3-methyl-phenol | 5.56 mmol, 1.04 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 8.34 mmol, 2.12 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | N,N-dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
product | 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 912.4 mg, 70% | CC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)O | C13H19BO3
